US07579355B2
4-Acetylpiperidine hydrochloride (4B-1, 5.0 g, 30.55 mmole) was taken up in CH2Cl2 (150 mL). To this was added Et3N (9.8 mL, 70.27 mmole) and the suspension became a solution. The mixture was cooled to 0° C. to which was added benzyl chloroformate (5.2 mL, 36.66 mmole). After the addition was complete the mixture was warmed to RT. After 18 hr the mixture was diluted with H2O. The layers were separated and the aqueous extracted with CH2Cl2 (3×). The combined organic layers were dried (MgSO4), filtered, and concentrated to afford benzyl 4-acetylpiperidine-1-carboxylate as an off-white solid (4B-2): 1H-NMR (500 MHz, CDCl3) δ 7.35 (m, 5H), 5.13 (s, 2H), 4.18 (bs, 2H), 2.88 (bs, 2H), 2.49 (m, 1H), 2.17 (s, 3H), 1.86 (bs, 2H), 1.55 (m, 2H).

reactant | 4-Acetylpiperidine hydrochloride | 30.55 mmole, 5.0 g | Cl.C(C)(=O)C1CCNCC1
reactant | Et3N | 70.27 mmole, 9.8 mL | CCN(CC)CC | C6H15N
reactant | benzyl chloroformate | 36.66 mmole, 5.2 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
solvent | CH2Cl2 | 150 mL | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | benzyl 4-acetylpiperidine-1-carboxylate | C(C)(=O)C1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C15H19NO3
